US08048902B2
Step 1: 5-(4′-Ethoxycarbonylmethyl-biphenyl-4-yl)-3-methyl-isoxazole-4-carboxylic acid
5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid (2.0 g, 7.07 mmol), [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (2.46 g, 8.5 mmol), tetrakis(triphenylphosphine)palladium(0) (0.80 g, 0.70 mmol), and sodium bicarbonate (4.3 g, 52 mmol) were combined in 1,4-dioxane (50 mL) and water (10 mL), and the reaction was stirred overnight at 80° C. to give the title compound.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazole-4-carboxylic acid | 7.07 mmol, 2.0 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C11H8BrNO3
reactant | [4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 8.5 mmol, 2.46 g | C(C)OC(CC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C16H23BO4
reactant | sodium bicarbonate | 52 mmol, 4.3 g | C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.70 mmol, 0.80 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(4′-Ethoxycarbonylmethyl-biphenyl-4-yl)-3-methyl-isoxazole-4-carboxylic acid | C(C)OC(=O)CC1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(=O)O | C21H19NO5
